US07501428B2
The suspension of 6-bromo-4-chloro-quinazoline (4.87 g, 20 mmol), sodium ethoxide (95%, 14.32 g, 200 mmol) in anhydrous ethyl alcohol (150 ml) was stirred at room temperature for 4 hr. After the reaction, solvent was evaporated. Then, ice water was added, followed by addition of 3 N HCL aq to adjust the pH to 9, and precipitate formed. The solid was collected and washed with H2O three times, then dried. Flash chromatography (Merck silica gel 60, 230-400 mesh, 10%-50% ethyl acetate in hexane for 30 min) afforded 6-Bromo-4-ethoxy-quinazoline (2.13 g, 55%) as a light yellow solid. LC-MS m/e 254 (MH+).

reactant | 6-bromo-4-chloro-quinazoline | 20 mmol, 4.87 g | BrC=1C=C2C(=NC=NC2=CC1)Cl | C8H4BrClN2
reactant | sodium ethoxide | 200 mmol, 14.32 g | [O-]CC.[Na+]
solvent | ethyl alcohol | 150 ml | C(C)O | C2H6O
product | 6-Bromo-4-ethoxy-quinazoline | 2.13 g, 55% | BrC=1C=C2C(=NC=NC2=CC1)OCC | C10H9BrN2O
